US09447106B2
Step 4: 1-Benzyl-2′-(4-phenoxyphenyl)-5′,7′-dihydro-4′H-spiro[azetidine-3,6′-pyrazolo[1,5-a]pyrimidine]-3′-carbonitrile
To a solution of (1-benzylazetidine-3,3-diyl)bis(methylene)dimethanesulfonate (300 mg, 0.83 mmol) in DMF (10 mL) was added 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile (230 mg, 0.83 mmol) and K2CO3 (230 mg, 1.66 mmol). The mixture was stirred at 80° C. under N2 for 16 hr. The mixture was concentrated. The residue was washed with H2O (100 mL×2), dried and purified by pre-TLC (DCM/CH3OH=10/1) to afford 30 mg (10%) of desired product as a yellow liquid. MS (ESI) m/e [M+1]+ 447.9.

reactant | (1-benzylazetidine-3,3-diyl)bis(methylene)dimethanesulfonate | 0.83 mmol, 300 mg | C(C1=CC=CC=C1)N1CC(C1)(CCS(=O)(=O)[O-])CCS(=O)(=O)[O-]
reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile | 0.83 mmol, 230 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C16H12N4O
reactant | K2CO3 | 1.66 mmol, 230 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-Benzyl-2′-(4-phenoxyphenyl)-5′,7′-dihydro-4′H-spiro[azetidine-3,6′-pyrazolo[1,5-a]pyrimidine]-3′-carbonitrile | 30 mg, 10% | C(C1=CC=CC=C1)N1CC2(CNC=3N(C2)N=C(C3C#N)C3=CC=C(C=C3)OC3=CC=CC=C3)C1 | C28H25N5O
